US04539152
A mixture of 4-nitrobenzyl 2-diazo-4-[(2R,3R)-3-{1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl}-4-oxoazetidin-2-yl]-3-oxobutanoate (1.00 g) and rhodium (II) acetate (5 mg) in benzene (50 ml) was refluxed for 25 minutes. After cooling to ambient temperature, the mixture was filtered through cellulose powder. The filtrate was evaporated to give 4-nitrobenzyl(2R,5R,6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate (0.94 g) as an amorphous solid.

reactant | 4-nitrobenzyl 2-diazo-4-[(2R,3R)-3-{1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl}-4-oxoazetidin-2-yl]-3-oxobutanoate | 1.00 g | [N+](=[N-])=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C[C@H]1NC([C@H]1C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)=O | C25H23N5O11
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | rhodium (II) acetate | 5 mg | C(C)(=O)[O-].[Rh+2].C(C)(=O)[O-]
product | 4-nitrobenzyl(2R,5R,6R)-3,7-dioxo-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-1-azabicyclo[3.2.0]heptane-2-carboxylate | 0.94 g | O=C1[C@@H](N2C([C@H]([C@H]2C1)C(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C25H23N3O11
